US08071592B2
(5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)acetaldehyde (0.10 g, 0.44 mmol) and 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)-4-piperidinylcarbamate (0.154 g, 0.44 mmole) (for a synthesis see WO2004/058144 Example 99(h)) were dissolved in chloroform (10 ml) and MeOH (1.5 ml) and treated with acetic acid (8 drops) and (polystyrylmethyl)trimethylammonium cyanoborohydride (Novabiochem) (4.1 mmol/g, 0.87 g), and the mixture stirred at rt for 60 h. The reaction was filtered and evaporated to dryness. Chromatography on silica gel eluting with a gradient of 0-12% MeOH/DCM gave 1,1-dimethylethyl {1-[2-(5-chloro-2-oxo-1,3-benzthiazol-3(2H)-yl)ethyl]-4-piperidinyl}(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)carbamate as an oil (0.25 g, 100%). MS (ES+) m/z 561 and 563 (MH+). This was dissolved in DCM (10 ml) and treated with trifluoroacetic acid (3 ml) at rt for 18 h then evaporated to dryness. The residue was partitioned between 10% potassium carbonate in water (30 ml) and 10% MeOH in DCM (3×30 ml). The organics were dried, filtered and evaporated to dryness. Chromatography on silica gel eluting with a gradient of 0-10% 2M ammonia in MeOH/DCM gave the free base of the title compound as an oil (0.138 g, 67%).

reactant | (5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)acetaldehyde | 0.44 mmol, 0.10 g | ClC=1C=CC2=C(N(C(S2)=O)CC=O)C1 | C9H6ClNO2S
reactant | 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)-4-piperidinylcarbamate | 0.44 mmole, 0.154 g | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCNCC2 | C18H27N3O4
reactant | MeOH | 1.5 ml | CO | CH4O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | acetic acid | 8 drops | C(C)(=O)O | C2H4O2
product | 1,1-dimethylethyl {1-[2-(5-chloro-2-oxo-1,3-benzthiazol-3(2H)-yl)ethyl]-4-piperidinyl}(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)carbamate | 0.25 g, 100% | ClC=1C=CC2=C(N(C(S2)=O)CCN2CCC(CC2)N(C(OC(C)(C)C)=O)CC2=CC3=C(C=N2)OCCO3)C1 | C27H33ClN4O5S
